US04801605
To a suspension of 5.0 g sodium hydride in 100 ml of dry tetrahydrofuran is added with stirring a solution of 13 g of trans-3-bromo-4-hydroxy-5-methoxy-3,4-dihydro-2H-[1]-benzopyran in 150 ml of dry tetrahydrofuran in a dropwise fashion. After 30 minutes stirring at room temperature, the reaction mixture is filtered through filter-cel and the solvent is removed in vacuo. The residue is dissolved in 150 ml of toluene, 1.0 g of anhydrous zinc iodide is added and the mixture is refluxed for 15 minutes. The reaction mixture is filtered through 120 g of silica gel with methylene chloride as the eluent to afford 5-methoxy-3,4-dihydro-2H-[1]-benzopyran-3-one (5-methoxychroman-3-one) as an oil.

reactant | sodium hydride | 5.0 g | [H-].[Na+]
reactant | trans-3-bromo-4-hydroxy-5-methoxy-3,4-dihydro-2H-[1]-benzopyran | 13 g | Br[C@@H]1COC2=C([C@H]1O)C(=CC=C2)OC | C10H11BrO3
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 5-methoxy-3,4-dihydro-2H-[1]-benzopyran-3-one | COC1=CC=CC2=C1CC(CO2)=O | C10H10O3
